US07951810B2
Step c: (2R,3S,5R)-5-(6-bromo-9H-purin-9-yl)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-tetrahydrofuran-3-yl acetate
To a solution of (2R,3S,5R)-5-(6-amino-9H-purin-9-yl)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)tetrahydrofuran-3-yl acetate (2.00 g, 4.91 mmol) in dibromomethane (98.2 mL) were added trimethylsilylbromide (0.717 mL, 5.55 mmol) then t-butylnitrite (3.98 mL, 33.44 mmol). The reaction mixture was stirred at room temperature for approximately 3 hours before being slowly poured into a 1:1 mixture of saturated NaHCO3:CH2Cl2. The organics were washed with water then brine. After drying over Na2SO4, the solvent was removed in vacuo. The crude product was purified by flash chromatography (0% to 30% EtOAc/Hex) to obtain the title compound as a yellow oil (1.26 g, 55%).

reactant | (2R,3S,5R)-5-(6-amino-9H-purin-9-yl)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)tetrahydrofuran-3-yl acetate | 4.91 mmol, 2.00 g | C(C)(=O)O[C@@H]1[C@H](O[C@H](C1)N1C2=NC=NC(=C2N=C1)N)CO[Si](C)(C)C(C)(C)C | C18H29N5O4Si
reactant | trimethylsilylbromide | 5.55 mmol, 0.717 mL | C[Si](C)(C)Br | C3H9BrSi
reactant | t-butylnitrite | 33.44 mmol, 3.98 mL | C(C)(C)(C)ON=O | C4H9NO2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dibromomethane | 98.2 mL | BrCBr | CH2Br2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2R,3S,5R)-5-(6-bromo-9H-purin-9-yl)-2-({[tert-butyl(dimethyl)silyl]oxy}methyl)-tetrahydrofuran-3-yl acetate | 1.26 g, 55% | C(C)(=O)O[C@@H]1[C@H](O[C@H](C1)N1C2=NC=NC(=C2N=C1)Br)CO[Si](C)(C)C(C)(C)C | C18H27BrN4O4Si
